US04228126
1. Synthesis of PMOBS (2,4-hexadiyn-1,6-diol bis(p-methoxybenzene sulfonate)
Fifty grams of p-methoxybenzenesulfonyl chloride was reacted, at 15° to 18° C., with 11 grams of 2,4-hexadiyn-1,6-diol in 100 ml tetrahydrofuran, while a solution of 20 grams potassium hydroxide in 180 ml water was added dropwise over a 10 minute period. The resulting exothermic reaction was cooled at 15° to 18° C. with the aid of an ice-water bath. After the addition of the potassium hydroxide solution, the solution was allowed to stir overnight at room temperature. The mixture was then poured into 500 ml cold aqueous sodium chloride solution which resulted in a yellow precipitate. The precipitate was collected by filtration, washed with water and dried. Obtained was 41.6 grams (93% yield of theory) of a yellow brown solid, melting point 120° to 122° C.

reactant | p-methoxybenzenesulfonyl chloride | Fifty grams | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 2,4-hexadiyn-1,6-diol | 11 grams | C(C#CC#CCO)O | C6H6O2
reactant | potassium hydroxide | 20 grams | [OH-].[K+]
reactant | sodium chloride | 500 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 180 ml | O | H2O
product | 2,4-hexadiyn-1,6-diol bis(p-methoxybenzene sulfonate) | 93% yield | COC1=CC=C(C=C1)S(=O)(=O)OCC#CC#CCOS(=O)(=O)C1=CC=C(C=C1)OC | C20H18O8S2
